US05747498
(3-Ethynyl-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine
(7-Chloro-6-nitroquinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride (100 mg, 0.306 mmol and dry sodium methoxide (120 mg, 2.22 mmol) were stirred in 2 mL of dry 2-methylpyrrolidin-1-one for 8 hours at 30° C. To the cooled reaction mixture 0.93 mL of 3N and 1 mL of water were added. The mixture was diluted with 60 mL of water and extracted with two time 60 mL of ethyl acetate. The pooled organic layers were washed with three times 50 mL of water and 50 mL of brine, dried with magnesium sulfate, filtered and vacuum evaporated to afford the title product as a solid; 80 mg (82%); mp 213°-218° C. dec.

reactant | (7-Chloro-6-nitroquinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)[N+](=O)[O-]
reactant | sodium methoxide | 2.22 mmol, 120 mg | C[O-].[Na+]
solvent | water | 60 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | (3-Ethynyl-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C17H12N4O3
